* Amplificador de TransConductancia *



V_V1         s 0 DC 0 AC 1
+SIN 1 1 1k 0 0 0
R_Ri         in 0  1meg  
R_Rs         s  in 1K  
R_RL         out 0 1k  
G_G1         out 0 in 0 1m
C_Cc		out	in	100p
