* Schematics Netlist *



V_V1         s	0	DC	0	AC	1
+SIN	1	1	1k	0	0	0
*R_Ri		0	i	1meg  
R_Rs		s	i	10K  
E_E1		out	0	0	i	100K
C_Cf		out	i	100n  
R_RL		0	out	1k