* source AMPLIGM1


V_V1		s	0	DC	1	AC	1
+SIN 1 1 1K 0 0 0
R_Rs		s	in	1K  
R_Ri		in	0	100K  
E_LAPLACE1	out 0	LAPLACE {in} {(10000)/(s - 10000)}
R_RL		0	out	1k 
