* amplificador de 3 etapas con capacitor de compenzacion *



V_V1        s 0 DC 0 AC 1
+SIN 1 1 1k 0 0 0
R_Rs		s		in	1K
R_Ri		in		0	100K
C_Ce1		in		0	14p
G_G1		out1	0	in	0	30m
C_Cc1		out1	in	1p
R_Ri2		out1	0	10K
C_Ce2		out1	0	14p
G_G2		out2	0	out1	0	30m
C_Cc2		out1	out2	1n
R_Ri3		out2	0	10K
E_E3		out		0	out2	0	1
R_RL		out		0	1k  
*	R_Rf		out		in	1meg
