* amplificador de 3 etapas con capacitor de compenzacion y realimentacion *
* Rz1 1400 casise cancela con el 2do polo


V_V1        s 0 DC 0 AC 1
+SIN 1 1 1k 0 0 0
R_Rs		s		in+	1K
R_Rb		in+		0	10K
R_Ri		in+		in-	20K
R_Rf1		in-		0	10K
C_Ce1		in+		in-	14p
G_G1		out1	0	in+	in-	30m
C_Cc1		out1	in+	1p
R_Ri2		out1	e2	10K
C_Ce2		out1	e2	14p
G_G2		out2	e2	out1	e2	30m
R_Re2		e2		0	300
C_Cc2		out1	out2	1p
R_Rz1		out2	cmp	100
C_Cz1		cmp		0	22n
R_Ro2		out2	0	100K
R_Ri3		out2	out	1K
C_Ce3		out2	out	14p
G_G3		0	out	out2	out	40m
C_Cc3		out2	0	1p
R_RL		out		0	10k  
*R_Rf2		out		in-	100K
