* Amplificador Bipolar small signal Common Emitter*



V_V1         s 0 DC 0 AC 1
+SIN 1 1 1k 0 0 0
R_Rs        s	in	1K  
R_Re        in	0	1K  
R_Ri        in	0	8k  
C_Ce		in	0	14p
G_G1        out	in	0	in	40m
C_Cc		out	0	1p
C_Ccs		out	0	2p
R_Rd		out	0	4k  
