* Amplificador Bipolar small signal Common Emitter*



V_V1         s 0 DC 0 AC 1
+SIN 1 1 1k 0 0 0
R_Rs        s	in	1K  
R_Ri1		in	0	8k  
C_Ce1		in	0	14p
G_G1        o1	0	in 0 40m
C_Cc1		o1	in	2p
R_Rd1		o1	0	4k  

R_Ri2		o1	0	8k  
C_Ce2		o1	0	14p
G_G2        out	o1	0	o1	40m
C_Cc2		out	0	1p
R_Rd2		out	0	4k  
