* Oscilador Clapp Base Comun *



V_V1		s	0	DC	0	AC	1
+SIN 1 1 1k 0 0 0
R_Rs		s	in	10
R_Rb		in	0	10
R_Ri		in	e	5K
C_Ce		in	e	14p
G_G1		out e	in	e	360m
R_Re		e	0	510
C_Cc		out	in	1p
C_C1		out	e	100p
C_C2		e	0	100p
C_C3		out	x	33p
L_L1		x	0	240n
R_RL		out	0	10k 
