* amplificador RE sin puentear *



V_V1		s	0	DC	0	AC	1
+SIN 1 1 1k 0 0 0
R_Rs		s	in	10
R_Ri		in	e	5K
C_Ce		in	e	14p
G_G1		out e	in	e	40m
R_Re		e	0	2200
C_Cc		out	in	1p
C_C1		out	e	100p
C_C2		e	0	100p
L_L1		out	0	150n
R_RL		out	0	10k 
