* oscilador Colpitss Emisor comun *



V_V1		s	0	DC	0	AC	1
+SIN 1 1 1k 0 0 0
R_Rs		s	in	1K
R_Ri		in	e	5K
C_Ce		in	e	14p
G_G1		out e	in	e	20m
R_Re		e	0	1
C_Cc		out	in	1p
C_C1		out	0	47p
C_C2		in	0	1500p
L_L1		out	in	5400n
R_RL		out	0	4k 
