* source AMPLIGM1


V_Vs         s 0 DC 1 AC 1
+SIN 1 1 1K 0 0 0 
*R_Rs		s	in-	100 
R_Rs		s	mid	1 
C_Cs		mid	in-	100n
R_Rb		in+	0	1  
R_Ri		in+	in-	100k  
*R_Rf1		in-	0	10k  
E_LAPLACE1	out	0	LAPLACE	{in+ in-} {(100000)/(s-100)}
R_RL		out	0	10k  
R_Rf2		out	in-	10k  
