* Schematics Netlist *



V_V2         s 0 DC 10V AC 10V 0
C_C1         0 out  10n  
R_R1         s mid  2  
L_L1         mid out  10uH  
C_C2         0 mid  50n  
