* amplificador RE sin puentear *



V_V1		s	0	DC	0	AC	1
+SIN 1 1 1k 0 0 0
R_Rs		s	in	1K
R_Ri		in	e	8K
C_Ce		in	e	14p
G_G1		out e	in	e	40m
R_Re		e	0	500
C_Cc		out	in	1p
R_RL		out	0	4k  
