* Schematics Netlist *



V_V2         s 0 DC 10V AC 10V 0
L_L1         0 out  100u 
R_R1         s mid  10  
C_C1         mid out  100n  
L_L2         0 mid  100u  
