* amplificador de 3 etapas con capacitor de compenzacion y realimentacion *
* simulacion de la primer etapa transitorio


V_V1        s	0	DC	10	AC	1
+SIN 1 1 1k 0 0 0
R_Rs		s		in+	1K
R_Rb		in+		0	100K
R_Ri		in+		0	10meg
*R_Rf1		in-		0	100K
*C_Cgs1		in+		in-	1000p
G_G1		out	0	in+	0	10m
*C_Cdg1		out	in+	500p
*C_Cds1		out	0	500p
R_Ri2		out		0	10K

