* diodo por defecto en un circuito R-diode serie *
* tran <Tstep> <Tstop> [Tstart [dTmax]] [modifiers]
*.tran 0 2m 0 10u


*V_V1         n1 n2 DC 0 AC 1 SIN off amp f 0 0 0
V_Vs         s	0	DC	1m	AC	1
+SIN 1m 1 1k 0 0 0
R_Rs	s	in	1k  
D_D1	in	0	