* RLC resonant circuit
*.Tran	200u	500n
*.AC	dec		101		1K	10meg
*.ACPLAIN	91	500K


* offset amplitude Frequency Ton Delay Trise Tfall Cicles
V_Vs	s	0	DC	1m	AC	1
+PULSE	1m	1	7800	1
R_R1		s	m	10
L_L1		m	out	100u
C_C1		out	0	100n
