* amplificador de 3 etapas con capacitor de compenzacion *



V_V1        s 0 DC 0 AC 1
+SIN 1 1 1k 0 0 0
R_Rs		s	in	1K
R_Ri		in	0	1Meg
E_E1        out1 0 in 0 300
R_Ri2		out1 0	10K
G_G2        out2 0 out1 0 10m
C_Cc		out1	out2	100p
R_Ri3		out2 0	10K
E_E3        out 0 out2 0 1
R_RL        out	0  1k  
R_Rf		out	in	10K
