* Amplificador Bipolar small signal Common Emitter*



V_V1         s 0 DC 0 AC 1
+SIN 1 1 1k 0 0 0
R_Rs        s	in 1K  
R_Ri        in	0  8k  
C_Ce		in	0	14p
G_G1        out 0 in 0 40m
C_Cc		out	in	2p
R_Rd		out	0 4k  
