* amplificador Colector Comun *



V_V1        s 0 DC 0 AC 1
+SIN 1 1 1k 0 0 0
R_Rs		s	in	1K
R_Rb		in	0	100K
R_Ri		in	out	8K
C_Ce		in	out	14p
G_G1        0	out in	out	40m
R_Re		out	0	5K
C_Cc		in	0	1p
R_RL        out	0	4k  
