* Amplificador simple tension *



V_V1         s 0 DC 0 AC 1
+SIN 1 1 1k 0 0 0
R_R1         0 out  1k  
R_Rs         0 s  1meg  
E_E1         out 0 s 0 10
