* Amplificador simple tension *



V_Vs         s 0 DC 0 AC 1
+SIN 1 1 1k 0 0 0
R_RL         0	out  1k
R_Rin		 in	0	1meg
R_Rs         s	in	1k  
E_E1         out 0 in 0 10
