* Schematics Netlist *



V_V2         $N_0001 0 5V
R_R2         $N_0002 $N_0001  2k  
V_V1         $N_0003 0 10V
R_R1         $N_0003 $N_0004  1k  
L_L1         $N_0004 $N_0002  1m  
R_R3         0 $N_0002  2k  
