* Schematics Netlist *



V_V1         b 0 10V
R_R1         b e  1k  
R_R6         e d  2k  
R_R4         e d  2k  
V_V3         d f 5V
* R_R7         f a  1k  *falta que ignore R7
R_R3         0 a  1k  
V_V5         a f 5V
V_V2         c 0 5V
R_R2         a c  2k  
R_R8         a h  1k  
V_V6         g e 5V
V_V7         g h 10V
