* Schematics Netlist *



R_R1         $N_0001 0  2k  
I_I1         0 $N_0001 DC 10mA  
R_R2         $N_0002 0  2k  
R_R3         $N_0002 $N_0001  1k  
I_I2         $N_0002 $N_0001 DC 5mA  
