* Schematics Netlist *



V_V1         $N_0001 0 DC 0 AC 1
+SIN 1 1 1k 0 0 0
R_R1         0 $N_0002  1k  
R_Rs         0 $N_0001  1meg  
E_E1         $N_0002 0 $N_0001 0 10
